US08629276B2
To a stirred solution of methyl 2-(4-(4-fluorophenyl)-2-isopropyl-8,8-dimethyl-5,6,7,8-tetrahydro-1,6-naphthyridin-3-yl)-2-hydroxyacetate 2 HCl, (intermediate 3) (0.230 g, 0.50 mmol) and Et3N (0.139 ml, 1.0 mmol) in CH2Cl2 (5 mL) was added trifluoroacetic anhydride (0.078 ml, 0.55 mmol) at room temperature. After 2 h, the reaction mixture was diluted with Et2O (50 mL), washed with satd NaHCO3 (25 mL), brine (25 mL), dried (Na2SO4), filtered and concentrated to afford a white solid. To a solution of the solid in CH2Cl2 (10 mL) and tert-butyl acetate (2.03 ml, 15.0 mmol) was added 70% perchloric acid (0.13 ml, 1.5 mmol) at room temperature and the solution stirred for 2 h. The reaction mixture was diluted with Et2O (50 mL), washed with satd NaHCO3 (2×25 mL), brine (25 mL), dried (Na2SO4), filtered and concentrated to afford a yellow residue which was purified by flash column chromatography on silica gel column using 5-35% EtOAc/Hexanes as eluent to afford methyl 2-tert-butoxy-2-(4-(4-fluorophenyl)-2-isopropyl-8,8-dimethyl-6-(2,2,2-trifluoroacetyl)-5,6,7,8-tetrahydro-1,6-naphthyridin-3-yl)acetate (0.15 g, 55% yield). 1H NMR (500 MHz, CDCl3) δ ppm 7.10-7.23 (4H, m), 4.80 (1H, s), 4.33-4.03 (2H, m), 3.69 (3H, s), 3.48-3.65 (3H, m), 1.34-1.41 (6H, m), 1.30 (3H, d, J=6.7 Hz), 1.26 (3H, d, J=6.4 Hz), 0.95-0.99 (9H, m). LCMS (M+H) calcd for C28H35FN2O4: 539.25. found: 539.3.

reactant | methyl 2-(4-(4-fluorophenyl)-2-isopropyl-8,8-dimethyl-5,6,7,8-tetrahydro-1,6-naphthyridin-3-yl)-2-hydroxyacetate 2 HCl | Cl.Cl.FC1=CC=C(C=C1)C1=C(C(=NC=2C(CNCC12)(C)C)C(C)C)C(C(=O)OC)O
reactant | Et3N | 1.0 mmol, 0.139 ml | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.55 mmol, 0.078 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl acetate | 15.0 mmol, 2.03 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | 1.5 mmol, 0.13 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | methyl 2-tert-butoxy-2-(4-(4-fluorophenyl)-2-isopropyl-8,8-dimethyl-6-(2,2,2-trifluoroacetyl)-5,6,7,8-tetrahydro-1,6-naphthyridin-3-yl)acetate | 0.15 g, 55% yield | C(C)(C)(C)OC(C(=O)OC)C=1C(=NC=2C(CN(CC2C1C1=CC=C(C=C1)F)C(C(F)(F)F)=O)(C)C)C(C)C | C28H34F4N2O4
